US06916822B2
(c) 1-(tert-Butoxycarbonyl)-4-[(2-carboxymethoxyphenyl)amino]piperidine
1-(tert-Butoxycarbonyl)-4-[(2-methoxycarbonylmethoxyphenyl)amino]piperidine (100 mg) was dissolved in methanol (1 ml), added with 1 N aqueous sodium hydroxide (0.55 ml) and stirred at room temperature for 1 hour. The reaction mixture was neutralized with 1 N aqueous hydrochloric acid and extracted twice with ethyl acetate (3 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure to obtain 72.1 mg of the title compound. Yield: 75%.

reactant | 1-(tert-Butoxycarbonyl)-4-[(2-methoxycarbonylmethoxyphenyl)amino]piperidine | 100 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=CC=C1)OCC(=O)OC | C19H28N2O5
reactant | sodium hydroxide | 1 N, 0.55 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 1 ml | CO | CH4O
product | 1-(tert-Butoxycarbonyl)-4-[(2-carboxymethoxyphenyl)amino]piperidine | 72.1 mg, Yield: 75% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=CC=C1)OCC(=O)O | C18H26N2O5
